US04265898
2-(2-Carboxyphenyl)-6-phenyl-imidazo[2,1-b]-1,3,4-thiadiazole
12 g of 2-(2-cyanophenyl)-6-phenyl-imidazo[2,1-b]-1,3,4-thiadiazole (Example No. 31) are heated to 170°-175° C. in 40 g of crystalline H3PO4 for 5 hours, the mixture is cooled and stirred with water, the precipitate is filtered off and dissolved in 2 N NaOH, the solution is clarified with charcoal and the product is precipitated with 2 N HCl.

reactant | 2-(2-cyanophenyl)-6-phenyl-imidazo[2,1-b]-1,3,4-thiadiazole | 12 g | C(#N)C1=C(C=CC=C1)C1=NN2C(S1)=NC(=C2)C2=CC=CC=C2 | C17H10N4S
reactant | water | O | H2O
reactant | H3PO4 | 40 g | OP(=O)(O)O | H3O4P
product | 2-(2-Carboxyphenyl)-6-phenyl-imidazo[2,1-b]-1,3,4-thiadiazole | C(=O)(O)C1=C(C=CC=C1)C1=NN2C(S1)=NC(=C2)C2=CC=CC=C2 | C17H11N3O2S
